US08378108B2
A solution of 4-chloro-5-methylpicolinic acid (159 mg, 0.924 mmol), 6-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine (169 mg, 0.840 mmol), (2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (383 mg, 1.01 mmol), and N-methylmorpholine (11 μL, 1.01 mmol) in N,N-dimethylformamide was stirred at 65° C. for 12 hours. The solvent was removed under reduced pressure, the residue was suspended in acetonitrile, and the solid product was isolated by filtration, washed with water (80 mL), acetonitrile (80 mL), diethyl ether (80 mL), and dried under vacuum to afford 4-chloro-N-(6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-yl)-5-methylpicolinamide as a white powder (140 mg, 47% yield).

reactant | 4-chloro-5-methylpicolinic acid | 0.924 mmol, 159 mg | ClC1=CC(=NC=C1C)C(=O)O | C7H6ClNO2
reactant | 6-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine | 0.840 mmol, 169 mg | C1(CC1)N1C(=NN=C1)C1=CC=CC(=N1)N | C10H11N5
reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.01 mmol, 383 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 1.01 mmol, 11 μL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-N-(6-(4-cyclopropyl-4H-1,2,4-triazol-3-yl)pyridin-2-yl)-5-methylpicolinamide | 140 mg, 47% yield | ClC1=CC(=NC=C1C)C(=O)NC1=NC(=CC=C1)C1=NN=CN1C1CC1 | C17H15ClN6O
